US09216991B2
Step 4: Formation of 2-Azaspiro[4.5]decane-3,8-dione
A solution of 1,4-dioxa-10-azadispiro[4.2.4.2]tetradecan-11-one (10.5 g, 49.8 mmol) in aq.HCl (2N, 20 mL) was stirred at RT for 2 h. The reaction mixture was then concentrated under reduced pressure and diluted with water. It was extracted with ethyl acetate (Three times) and the combined organic phases were washed with water, brine, dried over sodium sulfate, filtered and concentrated. Purification by flash chromatography on silica (Pet.Ether:EtOAc) afforded the title compound as a white solid (7.5 g, 92%). 1H NMR (400 MHz, DMSO-d6) δ 7.58 (m, 1H), 3.15-3.15 (s, 2H), 2.30 (s, 4H), 2.28-2.25 (m, 2H), 1.82-1.79 (m, 4H).

reactant | 1,4-dioxa-10-azadispiro[4.2.4.2]tetradecan-11-one | 49.8 mmol, 10.5 g | O1CCOC12CCC1(CNC(C1)=O)CC2 | C11H17NO3
solvent | HCl | 2N, 20 mL | Cl | ClH
product | 2-Azaspiro[4.5]decane-3,8-dione | 7.5 g, 92% | C1NC(CC12CCC(CC2)=O)=O | C9H13NO2
